US08067445B2
Step 1: 1-(2-Bromo-5-trifluoromethyl-phenyl)-ethanol
To 2-bromo-5-trifluoromethyl-benzaldehyde (1.0 g, 3.95 mmol) in THF (10 mL) at 0° C. under N2 was added methylmagnesium iodide (3M in diethyl ether; 2.6 mL, 7.91 mmol). The reaction was stirred for 2 hours, and then quenched with saturated aqueous NH4Cl and diluted with CH2Cl2. The aqueous layer was separated and extracted with CH2Cl2, and the combined organic layers were dried over MgSO4, filtered, and concentrated to give the title compound.

reactant | 2-bromo-5-trifluoromethyl-benzaldehyde | 3.95 mmol, 1.0 g | BrC1=C(C=O)C=C(C=C1)C(F)(F)F | C8H4BrF3O
reactant | methylmagnesium iodide | 7.91 mmol, 3M, 2.6 mL | C[Mg]I
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 1-(2-Bromo-5-trifluoromethyl-phenyl)-ethanol | BrC1=C(C=C(C=C1)C(F)(F)F)C(C)O | C9H8BrF3O
